US07034026B2
Step 3: Preparation of 2,3-bis(4-aminophenyl)-quinoxaline
A mixture of 1.0 g (4.17 mmole) of 4,4′-diaminobenzil and 0.45 g of o-phenylenediamine in 250 ml glacial acetic acid was heated at 50° C. for 15 mins., then stirred for 16 hours at room temperature. The mixture was then heated to 80° C. and allowed to cool slowly. The solvent was removed under vacuum and the residue was redissolved in ethanol and that was removed under vacuum.

reactant | 4,4′-diaminobenzil | 4.17 mmole, 1.0 g | NC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)N | C14H12N2O2
reactant | o-phenylenediamine | 0.45 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2,3-bis(4-aminophenyl)-quinoxaline | NC1=CC=C(C=C1)C1=NC2=CC=CC=C2N=C1C1=CC=C(C=C1)N | C20H16N4
